US06576748B1
A mixture of 1,12-diaminododecane (100.1 grams, 0.50 mol; obtained from Sigma-Aldrich Co.) and ethyl cyanoacetate (135.2 grams, 128 milliliters, 1.20 mol; obtained from Spectrum Chemicals, New Brunswick, N.J.), in a 2 liter flask was stirred and heated at 150° C. for 1 hour, after which time the amine had been completely converted to the bis(cyanoacetate) as indicated by 1H-NMR analysis. Ethyl acetoacetate (383 milliliters, 3.00 mol; obtained from Lonza Group, Germany), piperazine (172 grams, 2.00 mol; obtained from Spectrum Chemicals), and dimethyl formarmide (300 milliliters) were then added to the reaction mixture and the mixture was heated at 120° C. for 4 hours. The resultant pale brown solution was then cooled to 25° C. and was poured into a mixture of methanol (1,500 milliliters), water (500 milliliters), and concentrated (70 percent) nitric acid (300 grams, 258 milliliters, 4.0 mol). A precipitate formed at once. The suspension was stirred overnight, followed by filtration and washing of the solid with 5×500 milliliter portions of 75:25 (volume ratio) of a methanol-water mixture and subsequent drying at 60° C. to give 198 grams (85 percent yield) of dodecamethylene dipyridone as a cream-white solid, which decomposed without melting at 210° C.

reactant | 1,12-diaminododecane | 0.50 mol, 100.1 grams | NCCCCCCCCCCCCN | C12H28N2
reactant | ethyl cyanoacetate | 1.20 mol, 128 milliliters, 135.2 grams | C(#N)CC(=O)OCC | C5H7NO2
reactant | Ethyl acetoacetate | 3.00 mol, 383 milliliters | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperazine | 2.00 mol, 172 grams | N1CCNCC1 | C4H10N2
reactant | nitric acid | 4.0 mol, 258 milliliters, 300 grams | [N+](=O)(O)[O-] | HNO3
reactant | methanol | 1,500 milliliters | CO | CH4O
solvent | water | 500 milliliters | O | H2O
product | dodecamethylene dipyridone | 198 grams, 85 percent yield | N1C(C(=CC=C1)CCCCCCCCCCCCC=1C(NC=CC1)=O)=O | C22H32N2O2
